**************************************************
* Manufacturer:           Würth Elektronik 
* Kinds:                  Common Mode Choke Automotive High Voltage
* Matchcode:              WE-CMAHV
* Library Type:           LTspice
* Version:                rev26a
* Created/modified by:    Ella      
* Date and Time:          2026-04-03
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2026 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt XL_784830007215_0.7m 1 2 3 4
X1  1  2  3  4  CMAHV  PARAMS:
+  Rdc=3.8m
+  ck=119.2511f
+  DC4=3.9517p
+  DL4=289.5685n
+  DR5=10.5384
+  DR6=2.3410k
+  DC3=10.4842p
+  DL3=7.1730n
+  DR3=1.7055
+  DR4=150.0342
+  L1=601.6071u
+  L2=84.5416u
+  L3=73.5546u
+  L4=65.6782u
+  RS1=3.4367k
+  RS2=452.5338
+  RS3=437.4106
+  RS4=248.3536
+  C1=30.1209p
+  R2=506.7425m
+  C2=697.8113p
+  L5=9.7391u
+  RS5=390.0818
.ends XL_784830007215_0.7m
********
.subckt XL_784830010185_1m 1 2 3 4
X1  1  2  3  4  CMAHV  PARAMS:
+  Rdc=5.5m
+  ck=128.7906f
+  DC4=5.2280p
+  DL4=437.7786n
+  DR5=10.5223
+  DR6=3.2465k
+  DC3=11.5046p
+  DL3=11.9818n
+  DR3=1.7055
+  DR4=150.0346
+  L1=801.2054u
+  L2=208.7920u
+  L3=66.2162u
+  L4=50.3349u
+  RS1=4.0935k
+  RS2=1.0800k
+  RS3=1.0316k
+  RS4=1.0429k
+  C1=29.7253p
+  R2=506.9798m
+  C2=83.5157p
+  L5=85.5405u
+  RS5=1.4157k
.ends
********
.subckt XL_784830017132_1.7m 1 2 3 4
X1  1  2  3  4  CMAHV  PARAMS:
+  Rdc=10m
+  ck=154.9637f
+  DC4=6.9087p
+  DL4=631.6438n
+  DR5=10.5202
+  DR6=4.4469k
+  DC3=11.4592p
+  DL3=12.1246n
+  DR3=1.7055
+  DR4=150.0328
+  L1=715.3052u
+  L2=360.9474u
+  L3=260.9364u
+  L4=170.2017u
+  RS1=4.5016k
+  RS2=2.1382k
+  RS3=1.5839k
+  RS4=1.1118k
+  C1=22.6709p
+  R2=506.9307m
+  C2=80.5157p
+  L5=83.3255u
+  RS5=1.4353k
.ends
********
.subckt XL_784830025103_2.5m 1 2 3 4
X1  1  2  3  4  CMAHV  PARAMS:
+  Rdc=18m
+  ck=155.2033f
+  DC4=8.9185p
+  DL4=1.2671u
+  DR5=10.5203
+  DR6=8.2469k
+  DC3=7.4592p
+  DL3=42.1242n
+  DR3=1.7055
+  DR4=1.0469k
+  L1=1.3992m
+  L2=566.4852u
+  L3=495.6175u
+  L4=391.5212u
+  RS1=7.5024k
+  RS2=4.5384k
+  RS3=3.5843k
+  RS4=2.1127k
+  C1=18.2031p
+  R2=506.9245m
+  C2=80.5486p
+  L5=83.4740u
+  RS5=1.4354k
.ends
********
.subckt XL_784830039080_3.9m 1 2 3 4
X1  1  2  3  4  CMAHV  PARAMS:
+  Rdc=31m
+  ck=155.1902f
+  DC4=13.2174p
+  DL4=1.8102u
+  DR5=10.5196
+  DR6=10.5518k
+  DC3=7.4593p
+  DL3=82.1316n
+  DR3=1.7055
+  DR4=2.0469k
+  L1=2.0679m
+  L2=588.6619u
+  L3=517.9304u
+  L4=510.0418u
+  RS1=11.0706k
+  RS2=7.5388k
+  RS3=6.5847k
+  RS4=5.1135k
+  C1=23.3532p
+  R2=506.9112m
+  C2=294.0645p
+  L5=114.3342u
+  RS5=2.4349k
.ends
********
.subckt XXL_784831010205_1m 1 2 3 4
X1  1  2  3  4  CMAHV  PARAMS:
+  Rdc=5.5m
+  ck=128.7906f
+  DC4=8.2280p
+  DL4=637.7786n
+  DR5=10.5223
+  DR6=3.8465k
+  DC3=12.5046p
+  DL3=15.9818n
+  DR3=1.7055
+  DR4=350.0346
+  L1=701.2054u
+  L2=108.7920u
+  L3=96.2162u
+  L4=50.3349u
+  RS1=6.0935k
+  RS2=2.0800k
+  RS3=2.0316k
+  RS4=2.0429k
+  C1=30.7253p
+  R2=506.9798m
+  C2=83.5157p
+  L5=85.5405u
+  RS5=1.4157k
.ends
********
.subckt XXL_784831020133_2m 1 2 3 4
X1  1  2  3  4  CMAHV  PARAMS:
+  Rdc=13m
+  ck=128.5967f
+  DC4=14.3072p
+  DL4=1.3206u
+  DR5=10.5223
+  DR6=9.2465k
+  DC3=9.5077p
+  DL3=70.9818n
+  DR3=1.7055
+  DR4=1.0465k
+  L1=1.0054m
+  L2=413.7920u
+  L3=396.2162u
+  L4=150.3349u
+  RS1=13.2935k
+  RS2=7.0800k
+  RS3=5.0316k
+  RS4=4.0429k
+  C1=24.7253p
+  R2=506.9798m
+  C2=128.5157p
+  L5=105.5405u
+  RS5=1.6157k
.ends
********
.subckt XXL_784831016164_1.6m 1 2 3 4
X1  1  2  3  4  CMAHV  PARAMS:
+  Rdc=8.5m
+  ck=128.5967f
+  DC4=14.3072p
+  DL4=936.3206n
+  DR5=10.5223
+  DR6=6.8465k
+  DC3=10.5077p
+  DL3=40.9818n
+  DR3=1.7055
+  DR4=840.0346
+  L1=1.1054m
+  L2=408.7920u
+  L3=196.2162u
+  L4=50.3349u
+  RS1=11.0935k
+  RS2=6.0800k
+  RS3=4.0316k
+  RS4=4.0429k
+  C1=29.7253p
+  R2=506.9798m
+  C2=128.5157p
+  L5=105.5405u
+  RS5=1.5157k
.ends
********
.subckt XXL_784831034090_3.4m 1 2 3 4
X1  1  2  3  4  CMAHV  PARAMS:
+  Rdc=27m
+  ck=128.8055f
+  DC4=14.7981p
+  DL4=1.9211u
+  DR5=10.5199
+  DR6=12.8609k
+  DC3=7.5073p
+  DL3=111.5088n
+  DR3=1.7055
+  DR4=1.6465k
+  L1=2.1933m
+  L2=833.1188u
+  L3=230.4203u
+  L4=50.7382u
+  RS1=23.9545k
+  RS2=19.1156k
+  RS3=10.0395k
+  RS4=10.0433k
+  C1=20.4116p
+  R2=506.9724m
+  C2=137.2288p
+  L5=127.7160u
+  RS5=1.5155k
.ends
********
.subckt XXL_784831047068_4.7m 1 2 3 4
X1  1  2  3  4  CMAHV  PARAMS:
+  Rdc=44m
+  ck=129.5116f
+  DC4=14.1854p
+  DL4=2.8922u
+  DR5=10.5332
+  DR6=9.9991k
+  DC3=7.2321p
+  DL3=250.7690n
+  DR3=1.7056
+  DR4=2.3445k
+  L1=3.1933m
+  L2=803.1188u
+  L3=230.4203u
+  L4=150.7382u
+  RS1=40.4545k
+  RS2=29.1156k
+  RS3=20.0395k
+  RS4=20.0433k
+  C1=23.4116p
+  R2=506.9724m
+  C2=137.2288p
+  L5=127.7160u
+  RS5=1.5155k
.ends
********
.subckt CMAHV  1  2  3  4  PARAMS:
L5 N009 N008 {L3}
C3 N007 N006 {C1}
L1 4 N010 {L1}
L3 N010 N009 {L2}
L6 N015 N014 {L3}
C4 N024 N013 {C1}
L2 3 N016 {L1}
L4 N016 N015 {L2}
L8 N014 N013 {L4}
L7 N008 N006 {L4}
L9 N006 N005 {L5}
L10 N013 N021 {L5}
R1 N001 1 {Rdc}
R2 N003 N001 {dR4}
C1 N002 N001 {dC3}
L17 N011 N001 {dL3}
L18 N017 N018 {dL3}
C2 N011 N018 {ck}
R3 N003 N002 {dR3}
R4 N019 N022 {dR3}
C9 N022 N017 {dC3}
R5 N019 N017 {dR4}
L19 N003 N011 {dL3}
L20 N018 N019 {dL3}
R6 N017 2 {Rdc}
R8 N005 N003 {dR6}
C10 N004 N003 {dC4}
L13 N012 N003 {dL4}
L14 N019 N020 {dL4}
C11 N012 N020 {ck}
R9 N005 N004 {dR5}
R10 N021 N023 {dR5}
C12 N023 N019 {dC4}
R11 N021 N019 {dR6}
L15 N005 N012 {dL4}
L16 N020 N021 {dL4}
R7 N006 N005 {Rs5}
C5 N006 N005 {C2}
R12 N013 N021 {Rs5}
C6 N013 N021 {C2}
R13 N008 N006 {Rs4}
R14 N009 N008 {Rs3}
R15 N010 N009 {Rs2}
R16 4 N010 {Rs1}
R17 N014 N013 {Rs4}
R18 N015 N014 {Rs3}
R19 N016 N015 {Rs2}
R20 3 N016 {Rs1}
R21 4 N007 {R2}
R22 3 N024 {R2}
K3 L5 L6 1
K2 L3 L4 1
K1 L1 L2 1
K4 L7 L8 1
K5 L9  L10 1
K7_1  L17  L18  0.9999
K7_2  L17  L19  0.9999
K7_3  L17  L20  0.9999
K7_4  L18  L19  0.9999
K7_5  L18  L20  0.9999
K7_6  L19  L20  0.9999
K6_1  L13  L14  0.9999
K6_2  L13  L15  0.9999
K6_3  L13  L16  0.9999
K6_4  L14  L15  0.9999
K6_5  L14  L16  0.9999
K6_6  L15  L16  0.9999
.ends  CMAHV
********